US04978665
2-(2-propenyl)-4-chloro-5-(3-n-propoxy-4-methoxybenzylamino)-6-nitro-3(2H)pyridazinone (Compound No. 26)
A mixture comprising 500 mg of 4-chloro-5-(3-n-propoxy-4-methoxybenzylamino)-6-nitro-3(2H)pyridazinone (Compound No. 22) prepared in Example 2, 820 mg of allyl bromide, 937 mg of anhydrous potassium carbonate and 25 ml of methyl ethyl ketone, was refluxed under stirring for 1.5 hours. The solvent was distilled off under reduced pressure, water was added to the residue thereby obtained, the mixture was extracted with diethyl ether. The extract was washed with a saturated sodium chloride aqueous solution and dried over sodium sulfate. Then, the solvent was distilled off, and the residue was purified by silica gel column chromatography by using a solvent mixture of benzene: ethyl acetate (85:15 v/v) as the eluent, to obtain 394 mg of the above identified compound having a melting point of from 62.5° to 64° C. as yellow crystals.

reactant | 4-chloro-5-(3-n-propoxy-4-methoxybenzylamino)-6-nitro-3(2H)pyridazinone | 500 mg | ClC=1C(NN=C(C1NCC1=CC(=C(C=C1)OC)OCCC)[N+](=O)[O-])=O | C15H17ClN4O5
reactant | allyl bromide | 820 mg | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 937 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 25 ml | C(C)C(=O)C | C4H8O
product | 2-(2-propenyl)-4-chloro-5-(3-n-propoxy-4-methoxybenzylamino)-6-nitro-3(2H)pyridazinone | C(C=C)N1N=C(C(=C(C1=O)Cl)NCC1=CC(=C(C=C1)OC)OCCC)[N+](=O)[O-] | C18H21ClN4O5
